US07939527B2
To a 1-L round-bottom, 3-necked flask equipped with magnetic stirring, dynamic nitrogen inlet, and thermocouple probe were added 1-[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]ethanone hydrochloride (53.3 g, 0.302 mol), DCE (250 mL), and Et3N (100 mL, 1.006 mol). The flask was warmed to 50° C. and aged for 20 min. An additional 100 mL of DCE was added to facilitate stirring. The solution was cooled to 40° C. and the solution was then added via cannula to a 2-L round-bottom, 3-necked flask equipped with overhead mechanical stirring, dynamic nitrogen inlet, and thermocouple probe containing 4-(thiazolo[4,5-b]pyridin-2-yloxy)-benzaldehyde (51.6 grams, 0.201 mol) dissolved in DCE (100 mL). The 1-L round-bottom flask was rinsed with DCE (100 mL). The rinse solvent was added to the reaction mixture. The resultant deep purple solution was aged at rt for 2.5 h. After such time, the sodium triacetoxyborohydride (72.5 g, 0.342) was added in 4 equal portions over a four-hour period. Once addition was complete, the resultant solution was aged at rt overnight. The reaction was quenched by the slow addition of water (1 L) over a 10-minute period. After 30 additional minutes of stirring, the solution was filtered to remove a fine rag layer of precipitate. The layers were separated and the aqueous layer was extracted with DCE (1×500 mL). The organic layers were combined, washed with brine, dried over MgSO4, filtered and concentrated to yield crude product as a thick brown oil. The crude product was suspended in EtOAc (500 mL), warmed to 70° C., and cooled slowly to rt. The resultant slurry was filtered and the filtrate was concentrated to yield 1-{5-[4-(thiazolo[4,5-b]pyridin-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]hept-2-yl}-ethanone (67.2 g, 0.177 mol) as a brown glass. MS (ESI): mass calcd. for C20H20N4O2S, 380.13; m/z found, 381.1 [M+H]+.

reactant | 1-[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]ethanone hydrochloride | 0.302 mol, 53.3 g | Cl.[C@@H]12N(C[C@@H](NC1)C2)C(C)=O
reactant | Et3N | 1.006 mol, 100 mL | CCN(CC)CC | C6H15N
reactant | 4-(thiazolo[4,5-b]pyridin-2-yloxy)-benzaldehyde | 0.201 mol, 51.6 grams | S1C(=NC2=NC=CC=C21)OC2=CC=C(C=O)C=C2 | C13H8N2O2S
solvent | DCE | 100 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | DCE | 100 mL | ClCCCl | C2H4Cl2
solvent | DCE | 250 mL | ClCCCl | C2H4Cl2
product | 1-{5-[4-(thiazolo[4,5-b]pyridin-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]hept-2-yl}-ethanone | 0.177 mol, 67.2 g | S1C(=NC2=NC=CC=C21)OC2=CC=C(CN1C3CN(C(C1)C3)C(C)=O)C=C2 | C20H20N4O2S
